US07662808B2
4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenylamine (Intermediate compound)
A mixture of 4-(4-nitrophenyl)-1,4-diaza-bicyclo[3.2.2]nonane (0.50 g, 2.0 mmol), palladium on carbon (100 mg, 10%) and methanol (60 ml) was stirred for 15 minutes under hydrogen (130 ml of hydrogen was consumed). The crude mixture was filtered through celite and the product was isolated as an oil in quantitative yield.

reactant | 4-(4-nitrophenyl)-1,4-diaza-bicyclo[3.2.2]nonane | 2.0 mmol, 0.50 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN2CCC1CC2 | C13H17N3O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 60 ml | CO | CH4O
product | 4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | quantitative yield | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
